US06936602B1
To a solution of thioacetamide (11.9 g) in tetrahydrofuran (600 ml) was added sodium hydrogen carbonate (66.4 g), followed by addition of 80% ethyl bromopyruvate (50.0 g) at 0° C. The mixture was stirred overnight, the insolubles were filtered using Celite and the solvent was evaporated under reduced pressure. The resulting residue was dissolved in tetrahydrofuran (170 ml), and to the solution was added dropwise trifluoroacetic anhydride (170 ml) at 0° C., and the mixture was stirred at room temperature for 1 hour. To the mixture was added dropwise pyridine (200 ml) at 0° C., and the mixture was stirred at room temperature for 3 hours. The solvent was evaporated under reduced pressure, to the mixture was added ethyl acetate, and the mixture was washed with saturated sodium hydrogen carbonate solution and further with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane:ethyl acetate=2:1) to give ethyl 2-methylthiazole-4-carboxylate (13.0 g) as brown crystals.

reactant | thioacetamide | 11.9 g | C(C)(=S)N | C2H5NS
reactant | sodium hydrogen carbonate | 66.4 g | C(O)([O-])=O.[Na+]
reactant | ethyl bromopyruvate | 50.0 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | ethyl 2-methylthiazole-4-carboxylate | 13.0 g | CC=1SC=C(N1)C(=O)OCC | C7H9NO2S
